US05650092
Preparation of (3,4-difluorophenyl) trans-4-(4-fluoropentyl)-4-silacyclohexanecarboxylate
The general procedure of Example 3 was repeated using (3,4-difluorophenol and 4-(4-fluoropentyl)-4-phenyl-4-silacyclohexanecarboxylic acid, thereby obtaining the intended product.

reactant | 3,4-difluorophenol | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | 4-(4-fluoropentyl)-4-phenyl-4-silacyclohexanecarboxylic acid | FC(CCC[Si]1(CCC(CC1)C(=O)O)C1=CC=CC=C1)C | C17H25FO2Si
product | (3,4-difluorophenyl) trans-4-(4-fluoropentyl)-4-silacyclohexanecarboxylate | FC(CCC[Si@@H]1CC[C@H](CC1)C(=O)OC1=CC(=C(C=C1)F)F)C | C17H23F3O2Si
